US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(3-methoxy-phenyl)-amine (Compound B8)
Was prepared according to Method B from 2,4-dichloroquinazoline, m-anisidine and 3,5-dimethylpyrazole. Mp. 193.1-194.7° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(3-methoxy-phenyl)-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1=CC(=CC=C1)OC | C20H19N5O
